US09216988B2
To a solution of 4-bromo-2-hydroxy-benzaldehyde (4 g, 19.9 mmol) in tetrahydrofuran (100 mL) and methanol (10 mL) was added 2-aminoethanol (1.3 mL, 21.9 mmol), followed by sodium borohydride (1.5 g, 39.9 mmol). After bubbling stopped, the reaction was stirred at 40° C. for 2 hours. The reaction was then concentrated in vacuo and then diluted with EtOAc (50 mL) and saturated aqueous NaHCO3 (30 mL). To this suspension was added di-tert-butyldicarbonate (4.6 g, 20.9 mmol) and the mixture was stirred at ambient temperature for 16 hours. The reaction was diluted with EtOAc, washed with water, brine, dried with MgSO4, filtered and concentrated. Heptane was then added and the precipitate was collected by filtration and washed with more heptane to give tert-butyl N-[(4-bromo-2-hydroxy-phenyl)methyl]-N-(2-hydroxyethyl)carbamate (5.4 g, 78% yield) as a white solid. LCMS (m/z) ES+ 346 [M+1]+.

reactant | 4-bromo-2-hydroxy-benzaldehyde | 19.9 mmol, 4 g | BrC1=CC(=C(C=O)C=C1)O | C7H5BrO2
reactant | 2-aminoethanol | 21.9 mmol, 1.3 mL | NCCO | C2H7NO
reactant | sodium borohydride | 39.9 mmol, 1.5 g | [BH4-].[Na+]
reactant | di-tert-butyldicarbonate | 20.9 mmol, 4.6 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl N-[(4-bromo-2-hydroxy-phenyl)methyl]-N-(2-hydroxyethyl)carbamate | 5.4 g, 78% yield | BrC1=CC(=C(C=C1)CN(C(OC(C)(C)C)=O)CCO)O | C14H20BrNO4
